US05854268
d) 3-(Benzylamino)methyl-3-hydroxy-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl)pyrrolidine
The title compound was prepared from the foregoing t-butyloxycarbonyl-protected compound as described for 4-(benzylamino)methyl-4-hydroxy-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl)piperidine. mp>61° C. MS, ES+, m/z=431 for (M+H)+ ; δ (360 MHz, D6 -DMSO) 1.57-1.67 (1H, m, CH), 1.72-1.86 (3H, m, CH and CH2CH2CH2)), 2.31-2.65 (8H, m 4×CH2 N), 2.72 (2H, t, J=7 Hz, CH2 -indole), 3.72 (2H, s, NHCH2Ph), 4.55 (1H, s, OH), 7.15-7.32 (7H, m, Ar--H), 7.47 (1H, d, J=8 Hz, Ar--H), 7.77 (1H, d, J=2 Hz, Ar--H), 9.00 (2H, s, triazole-H), 11.06 (1H, s, indole-NH). (Found: C, 68.40; H, 6.53; N, 18.73. C25H30N6O.0.15(CH2Cl2) requires C, 68.14; H, 6.89; N, 18.96%).

reactant | 4-(benzylamino)methyl-4-hydroxy-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl)piperidine | C(C1=CC=CC=C1)NCC1(CCN(CC1)CCCC1=CNC2=CC=C(C=C12)N1C=NN=C1)O | C26H32N6O
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-(Benzylamino)methyl-3-hydroxy-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl)pyrrolidine | C(C1=CC=CC=C1)NCC1(CN(CC1)CCCC1=CNC2=CC=C(C=C12)N1C=NN=C1)O | C25H30N6O
